US07960571B2
Preparation of [2-(hydroxymethyl)phenyl]diisopropylphenylsilane: 2e
The resultant oxasilacyclopentane (11.0 g, 50.0 mmol) was dissolved in THF (125 ml), and a 1.07M solution of phenylmagnesium bromide in THF (51 ml, 55 mmol) was slowly added thereto at 0° C. After finishing dropping the solution, the resultant was stirred at room temperature for 16 hours. The reaction solution was diluted with diethyl ether and was washed with a saturated NH4Cl aqueous solution, water, and brine, and then was dried over anhydrous MgSO4. After removal of the solvents, the residue was purified by column chromatography on silica gel, thereby obtaining [2-(hydroxymethyl)phenyl]diisopropylphenylsilane (13.5 g, 90%) as colorless crystal.

reactant | oxasilacyclopentane | 50.0 mmol, 11.0 g | O1[SiH2]CCC1 | C3H8OSi
reactant | phenylmagnesium bromide | C1(=CC=CC=C1)[Mg]Br
reactant | THF | 125 ml | C1CCOC1 | C4H8O
reactant | THF | 55 mmol, 51 ml | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | [2-(hydroxymethyl)phenyl]diisopropylphenylsilane | OCC1=C(C=CC=C1)[Si](C1=CC=CC=C1)(C(C)C)C(C)C | C19H26OSi
